US08445674B2
B) 3-{4-[(E)-3-(3-Chloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-4-methoxy-butyric acid tert-butyl ester
To a solution of 0.200 g (0.46 mmol) of 3-{4-[(E)-3-(3-chloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-4-hydroxy-butyric acid tert-butyl ester in 0.73 ml of DMF was added dropwise 0.142 ml (2.29 mmol) of iodomethane. The solution was treated at 0° C. with 0.024 g (0.55 mmol) of NaH (55% in oil). The reaction was stirred for 3 h at 0° C., neutralized with cold aqueous 10% KHSO4 and extracted with EtOAc (3×). The organic phases were washed with aqueous saturated NaHCO3 and aqueous 10% NaCl, dried (Na2SO4), evaporated and purified on a SiO2-column (dichloromethane/Isopropanol 99:1-98:2) to give the titled compound in 61% yield as colorless gum. MS: 451.2 (MH+, 1Cl).

reactant | 3-{4-[(E)-3-(3-chloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-4-hydroxy-butyric acid tert-butyl ester | 0.46 mmol, 0.200 g | C(C)(C)(C)OC(CC(CO)N1CCN(CCC1=O)C(\C=C\C1=CC(=CC=C1)Cl)=O)=O | C22H29ClN2O5
reactant | iodomethane | 2.29 mmol, 0.142 ml | IC | CH3I
reactant | NaH | 0.55 mmol, 0.024 g | [H-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | DMF | 0.73 ml | CN(C)C=O | C3H7NO
product | 3-{4-[(E)-3-(3-Chloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-4-methoxy-butyric acid tert-butyl ester | 61% yield | C(C)(C)(C)OC(CC(COC)N1CCN(CCC1=O)C(\C=C\C1=CC(=CC=C1)Cl)=O)=O | C23H31ClN2O5
